US09056874B2
tert-Butyl 5-methoxy-7-methyl-4-(2,2,2-trifluoroacetyl)-1H-indole-1-carboxylate
To a solution of (±)-tert-butyl 5-methoxy-7-methyl-4-(2,2,2-trifluoro-1-hydroxyethyl)-1H-indole-1-carboxylate (0.46 g, 1.28 mmol) in DCM (13 mL), Dess-Martin periodinane (0.814 g, 1.920 mmol) was added, and the reaction was stirred at room temperature. After 10 minutes the reaction mixture was quenched with aq. NaHCO3 and aq. sodium thiosulfate. The layers were separated and the aqueous layer was extracted with DCM. The combined organic extracts were dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-50% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 358.3 (M+H).

reactant | (±)-tert-butyl 5-methoxy-7-methyl-4-(2,2,2-trifluoro-1-hydroxyethyl)-1H-indole-1-carboxylate | 1.28 mmol, 0.46 g | COC=1C(=C2C=CN(C2=C(C1)C)C(=O)OC(C)(C)C)C(C(F)(F)F)O | C17H20F3NO4
reactant | Dess-Martin periodinane | 1.920 mmol, 0.814 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 5-methoxy-7-methyl-4-(2,2,2-trifluoroacetyl)-1H-indole-1-carboxylate | COC=1C(=C2C=CN(C2=C(C1)C)C(=O)OC(C)(C)C)C(C(F)(F)F)=O | C17H18F3NO4
